US05455253
A stirred mixture of ethyl 4,4,4-trifluoroacetoacetate (6.00 mL), 1,3-cylohexanedione (4.65 g), 3-nitrobenzaldehyde (6.31 g), and ammonium acetate (6.57 g) in ethanol (350 mL) was heated at reflux for 4.5 hours. After removal of solvent the orange residue was treated diethyl ether, and the resulting precipitate was collected by filtration. The solid was triturated with hot diethyl ether, collected, and purified by chromatography (ethyl acetate) to yield 3-carboethoxy-2-trifluoromethyl-2-hydroxy-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone (8.47 g) as a white solid. NMR: 0.85 (t,3, J=7.1, CH3), 1.86 (m,2, CH2), 2.07 (m,2, CH2), 2.27-2.44 (m,1, CH2), 2.57-2.72 (m,1, CH2), 2.75 (d,1, J=11.9, CH), 3.83 (m,2, CH2), 4.07 (d,1, J=11.4, CH), 7.30 (s,1, OH), 7.50 (m,1, Ar), 7.57 (m,1, Ar), 7.87 (m,1, Ar), 8.01 (m,1, Ar), 8.16 (s,1, NH); MS: m/z=428(M).

reactant | ethyl 4,4,4-trifluoroacetoacetate | 6.00 mL | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | 1,3-cylohexanedione | 4.65 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | 3-nitrobenzaldehyde | 6.31 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ammonium acetate | 6.57 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 350 mL | C(C)O | C2H6O
product | 3-carboethoxy-2-trifluoromethyl-2-hydroxy-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone | 8.47 g | C(=O)(OCC)C1C(NC=2CCCC(C2C1C1=CC(=CC=C1)[N+](=O)[O-])=O)(O)C(F)(F)F | C19H19F3N2O6
